US03984573
Using a procedure similar to that of Example IV, a mixture of 50 g (0.32 mole) of 2-mercaptobenzoic acid, 50 g (0.7 mole) of n-butanol, 200 ml of benzene and 1.1 g of sulfuric acid (93%) was heated at reflux for 24 hours during which time 5.9 ml of water was collected in the water separator. The mixture was cooled, washed, concentrated and the residual oil distilled to give n-butyl 2-mercaptobenzoate: 46.1 g (68.6% yield); bp 127°-128°C/ 1.0 mm; mol wt 210:

reactant | 2-mercaptobenzoic acid | 0.32 mole, 50 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | n-butanol | 0.7 mole, 50 g | C(CCC)O | C4H10O
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 1.1 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 5.9 ml | O | H2O
product | n-butyl 2-mercaptobenzoate | 68.6% yield | SC1=C(C(=O)OCCCC)C=CC=C1 | C11H14O2S
